US06011149
Preparation of 4-(2,5-dihydro-3,4-dimethyl-2,5-dioxo-pyrrol-1-yl)-benzoic acid chloride
48 g (0.35 mol) of 4-aminobenzoic acid are dissolved in sodium hydroxide solution (14 g of NaOH in 300 ml of water). To that mixture there is added dropwise, with stirring, a solution of 44.2 g of dimethylmaleic acid anhydride in 300 ml of dimethylacetamide. The solution is then heated at 90° C. and, after 1.30 hours, 175 ml of aqueous hydrochloric acid (2N) are added. After the addition of hydrochloric acid, the solution is cooled to room temperature and the stirrer is switched off. The crystalline product that has precipitated is filtered off, washed with water and dried in vacuo at 60° C. Yield: 73.6 g (85.7%). Melting point: 230-231° C. 73.6 g of that intermediate are suspended in 700 ml of dry toluene. At 70° C., 32 ml of thionyl chloride are added dropwise. As soon as the evolution of gas has ceased (approx. 2 hours), the temperature is increased to 80° C. for 2 hours. After cooling, the solution is concentrated using a rotary evaporator. The solid residue is recrystallised from toluene and then dried at 60° C. Yield: 88%. Melting point: 199-200° C. 1H-NMR (CDCl3): 2.08 (s, CH3), 7.68 (d, phenyl), 8.20 (d, phenyl).

reactant | 4-aminobenzoic acid | 0.35 mol, 48 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | dimethylmaleic acid anhydride | 44.2 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
reactant | hydrochloric acid | 2N, 175 ml | Cl | ClH
solvent | sodium hydroxide | 300 ml, 14 g | [OH-].[Na+]
solvent | dimethylacetamide | 300 ml | CC(=O)N(C)C | C4H9NO
product | 4-(2,5-dihydro-3,4-dimethyl-2,5-dioxo-pyrrol-1-yl)-benzoic acid chloride | Yield: 88% | CC=1C(N(C(C1C)=O)C1=CC=C(C(=O)Cl)C=C1)=O | C13H10ClNO3
